US07163937B2
Methyl 4-oxopiperidine-3-carboxylate hydrochloride (10.0 g, 51.6 mmol, 1 eq.) was dissolved in water (60 mL) at room temperature then cooled to 0° C. Added sodium carbonate (6.02 g, 56.8 mmol, 1.05 eq.) followed by the dropwise addition of BOC anhydride (11.84 g, 51.6 mmol, 1 eq.) in THF (50 mL) via an addition funnel. Stirred at 0° C. for 1 hour. Worked up by extracting 3 times with diethyl ether (50 mL). The diethyl ether extracts were combined and rinsed once (50 mL) with brine. The diethyl ether layer was dried over sodium sulfate and stripped to give 1-tert-butyl 3-methyl 4-oxopiperidine-1,3-dicarboxylate (13.29 g) as an amber oil. Yield=100%. 1H NMR (400 MHz) (CDCl3) δ 4.02 (s, 2H); 3.77 (s, 3H); 3.59 (s, 2H); 2.37 (s, 2H); 1.47 (s, 9H).

reactant | Methyl 4-oxopiperidine-3-carboxylate hydrochloride | 51.6 mmol, 10.0 g, 1 eq. | Cl.O=C1C(CNCC1)C(=O)OC
reactant | sodium carbonate | 56.8 mmol, 6.02 g, 1.05 eq. | C([O-])([O-])=O.[Na+].[Na+]
reactant | BOC anhydride | 51.6 mmol, 11.84 g, 1 eq. | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 60 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-tert-butyl 3-methyl 4-oxopiperidine-1,3-dicarboxylate | 13.29 g, Yield=100% | O=C1C(CN(CC1)C(=O)OC(C)(C)C)C(=O)OC | C12H19NO5
